US09029560B2
Preparation of 1-[(2-isopropylphenyl)carbamothioyl]-3-[3-[4-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]propyl]urea (PC94)
The title compound was prepared as described in Example 63 using 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine (C60) and 1-(2-isopropylphenyl)thiourea. Sodium acetate was used in place of sodium bicarbonate. The title compound was isolated as a white solid (0.161 g, 31%): 1H NMR (400 MHz, DMSO-d6) δ 11.97 (s, 1H), 10.08 (s, 1H), 9.39 (s, 1H), 8.13-7.99 (m, 4H), 7.68-7.58 (m, 2H), 7.49-7.31 (m, 4H), 7.24 (dtd, J=24.9, 7.4, 1.6 Hz, 2H), 7.09 (t, J=5.4 Hz, 1H), 3.17 (q, J=6.5 Hz, 2H), 3.01 (p, J=6.8 Hz, 1H), 2.70 (t, J=7.7 Hz, 2H), 1.82 (p, J=7.3 Hz, 2H), 1.17 (d, J=6.9 Hz, 6H); 19F NMR (376 MHz, DMSO-d6) δ −56.96; ESIMS m/z 583 ([M+H]+), 581 ([M−H]−).

reactant | 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CCCN)(F)F | C18H17F3N4O
reactant | 1-(2-isopropylphenyl)thiourea | C(C)(C)C1=C(C=CC=C1)NC(=S)N | C10H14N2S
reactant | Sodium acetate | C(C)(=O)[O-].[Na+]
product | 1-[(2-isopropylphenyl)carbamothioyl]-3-[3-[4-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]propyl]urea | C(C)(C)C1=C(C=CC=C1)NC(=S)NC(=O)NCCCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C29H29F3N6O2S
